US05854262
D. Methyl-2-methoxy-5-benzthioamido-benzoate
A 2 liter round bottom flask was charged with 15.7 grams (55 mmol) methyl-2-methoxy-5-benzamidobenzoate and 22.2 grams (55 mmol) of Lawesson's reagent followed by 500 mL of toluene. The reaction mixture was heated under reflux for 1.5 hours. The mixture was diluted with 500 mL of ethyl acetate, and washed with 250 mL of saturated aqueous bicarbonate solution, followed by washes with water and brine. The organic layer was dried over sodium sulfate, filtered and evaporated. The residue was chromatographed on silica eluting with 96/4 methylene chloride--ether. There was obtained 14.8 grams (89%) of desired material.

reactant | methyl-2-methoxy-5-benzamidobenzoate | 55 mmol, 15.7 grams | COC(C1=C(C=CC(=C1)NC(C1=CC=CC=C1)=O)OC)=O | C16H15NO4
reactant | Lawesson's reagent | 55 mmol, 22.2 grams | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | Methyl-2-methoxy-5-benzthioamido-benzoate | 14.8 grams, 89% | COC(C1=C(C=CC(=C1)NC(C1=CC=CC=C1)=S)OC)=O | C16H15NO3S
